US04895860
Step (3) Preparation of 2-Bromomethyl-5-bromobenzthiophene
According to the procedure of S. Gronowitz, et al., Synth. Commin., 6, (7), 475 (1976), to a stirred, boiling partial solution of N-bromosuccinimide (17.63 g, 0.099 mol) in CCl4 (200 mL) was added 2,2'-azobis-(2-methylpropionitrile) (1.1 g, 0.007 mol). After one minute, a solution of 5-bromo-2-methylbenzthiophene (15.0 g, 0.066 mol) in CCl4 (100 mL) was added. The resulting mixture was heated at reflux for 2 hours and cooled to 0° C. The solid was filtered. The filtrate was concentrated to give 18.19 g (90%) of product as an orange solid.

reactant | N-bromosuccinimide | 0.099 mol, 17.63 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobis-(2-methylpropionitrile) | 0.007 mol, 1.1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 5-bromo-2-methylbenzthiophene | 0.066 mol, 15.0 g | BrC=1C=CC2=C(C=C(S2)C)C1 | C9H7BrS
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-5-bromobenzthiophene | 18.19 g, 90% | BrCC=1SC2=C(C1)C=C(C=C2)Br | C9H6Br2S
